US07687515B2
A stirred mixture 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile (1 g, 5.04 mmol), 4-ethoxy-3-trifluoromethylphenylboronic acid (1.33 g, 6.04 mmol), tetrakis-(triphenylphosphine)palladium(0) (˜500 mg,10 mol %), potassium carbonate (2.09 g, 15.12 mmol) and THF (10 ml) was degassed under a stream of nitrogen before heating in the “Smith” microwave at 150° C. for 10 minutes. The crude mixture was concentrated under reduced pressure to remove THF before partitioning between ethyl acetate and water. The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure to give a dark brown oil. Trituration with diethylether gave a light brown solid which was filtered and dried under a stream of air to afford 4-amino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-3-nitro-pyridine-2-carbonitrile (900 mg). 1H NMR (DMSO): δ 8.25-8.1 (m, 3H), 7.63 (s, 1H), 7.44 (d, 2H), 4.27 (q, 2H), 1.38 (t, 3H).

reactant | 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile | 5.04 mmol, 1 g | NC1=C(C(=NC(=C1)Cl)C#N)[N+](=O)[O-] | C6H3ClN4O2
reactant | 4-ethoxy-3-trifluoromethylphenylboronic acid | 6.04 mmol, 1.33 g | C(C)OC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C9H10BF3O3
reactant | potassium carbonate | 15.12 mmol, 2.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 4-amino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-3-nitro-pyridine-2-carbonitrile | 900 mg | NC1=C(C(=NC(=C1)C1=CC(=C(C=C1)OCC)C(F)(F)F)C#N)[N+](=O)[O-] | C15H11F3N4O3
